US07531539B2
212C. Preparation of 2-methoxy-5-(pyrrolidin-3-yl)pyridine
Benzyl 4-(6-methoxypyridin-3-yl)-2,3-dihydro-1H-pyrrole-1-carboxylate (100 mg, 0.33 mmol) was dissolved in methanol (10 mL). The solution was purged with nitrogen for 10 minutes and then treated with 5% Pd/C (10 mg). The reaction was stirred under a hydrogen atmosphere overnight. The catalyst was filtered off and the filtrate was concentrated to provide the title compound (60 mg, 95%). 1HNMR (500 MHz, CDCl3) δ 8.03 (m, 1H), 7.50 (m, 1H), 6.66 (m, 1H), 3.86 (s, 3H), 3.22 (m, 2H), 3.01 (m, 2H), 2.67 (m, 1H), 2.32 (m, 1H), 1.70 (m, 1H).

reactant | Benzyl 4-(6-methoxypyridin-3-yl)-2,3-dihydro-1H-pyrrole-1-carboxylate | 0.33 mmol, 100 mg | COC1=CC=C(C=N1)C=1CCN(C1)C(=O)OCC1=CC=CC=C1 | C18H18N2O3
solvent | methanol | 10 mL | CO | CH4O
product | 2-methoxy-5-(pyrrolidin-3-yl)pyridine | 60 mg, 95% | COC1=NC=C(C=C1)C1CNCC1 | C10H14N2O
